US07176242B2
Formic Acid Compound with N1-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-N4-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)succinamide (1:1)
To a solution of S-aminoquinuclidine (0.086 g, 0.434 mmol) TEA (0.302 ml, 2.17 mmol), and anhydrous DMF (2.5 ml) was added 4-[((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)amino]-4-oxobutanoic acid (0.200 g, 0.434 mmol), EDC (0.125 g, 0.651 mmol), and HOBT (0.088 g, 0.651 mmol) under nitrogen, with stirring at 45° C. overnight. Reaction mixture was quenched with 10% sodium bicarbonate (aq.) then extracted with ethyl acetate then concentrated in vacuo, yielding product (0.093 g). Prep-HPLC yielded the product as its formate salt. (ES+: 569.3)

reactant | 4-[((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)amino]-4-oxobutanoic acid | 0.434 mmol, 0.200 g | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)CC)O)NC(CCC(=O)O)=O)C=C(C1)F | C25H30F2N2O4
reactant | EDC | 0.651 mmol, 0.125 g
reactant | HOBT | 0.651 mmol, 0.088 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | Formic Acid Compound with N1-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-N4-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)succinamide | 0.093 g | N12C[C@@H](C(CC1)CC2)NC(CCC(=O)N[C@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)CC)O)CC2=CC(=CC(=C2)F)F)=O.C(=O)O | InChI=1S/C32H42F2N4O3.CH2O2/c1-2-21-4-3-5-24(14-21)32(10-11-32)35-19-29(39)27(17-22-15-25(33)18-26(34)16-22)36-30(40)6-7-31(41)37-28-20-38-12-8-23(28)9-13-38;2-1-3/h3-5,14-16,18,23,27-29,35,39H,2,6-13,17,19-20H2,1H3,(H,36,40)(H,37,41);1H,(H,2,3)/t27-,28-,29+;/m0./s1
